US04558155
N-[2-(3,5-Dichlorophenoxy)ethyl]cyclohexaneamine Hydrochloride
A solution of 27.2 g (0.1 mole) of 2-bromoethyl-3,5-dichlorophenyl ether in 300 ml of cyclohexylamine (excess) was stirred overnight at room temperature. The reaction mixture was filtered and the filtrate stripped to dryness on a rotary evaporator. The residue was partitioned between chloroform and water and between chloroform and 10% sodium hydroxide. The chloroform layer was evaporated to dryness leaving an oil (free base). The oil was dissolved in methanol and reacted with ethereal hydrogen chloride to give 25.8 g (94.2%) solid, m.p. 216.5°-220° C.

reactant | 2-bromoethyl-3,5-dichlorophenyl ether | 0.1 mole, 27.2 g | BrCCC1=C(C=C(C=C1Cl)Cl)OC1=C(C(=CC(=C1)Cl)Cl)CCBr | C16H12Br2Cl4O
reactant | hydrogen chloride | Cl | ClH
reactant | cyclohexylamine | 300 ml | C1(CCCCC1)N | C6H13N
solvent | methanol | CO | CH4O
product | N-[2-(3,5-Dichlorophenoxy)ethyl]cyclohexaneamine Hydrochloride | 25.8 g, 94.2% | Cl.ClC=1C=C(OCCNC2CCCCC2)C=C(C1)Cl | InChI=1S/C14H19Cl2NO.ClH/c15-11-8-12(16)10-14(9-11)18-7-6-17-13-4-2-1-3-5-13;/h8-10,13,17H,1-7H2;1H
